US06825184B2
5-Aza-benzimidazole (312 mg, 2.62 mmol, 1 equiv.) in 5 mL anhydrous DMSO was treated with potassium tert-butoxide (294 mg, 2.62 mmol, 1.0 equiv.) at room temperature. When the mixture was completely homogeneous, 4-fluoro-1-nitro-naphthalene (500 mg, 2.62 mmol, 1 equiv.) was added in one portion and the mixture was heated to 60° C. for 0.5 h. The reaction was allowed to cool, then quenched with dilute aqueous NaHCO3 solution. The product was extracted with a mixture of EtOAc, THF and acetone. The organic extracts were washed with water and brine, then dried (Na2SO4), filtered and the solvents removed in vacuo. 1H NMR revealed a 1:1 ratio of regioisomers. The products were purified by column chromatography on SiO2 using EtOAc/MeOH eluent mixtures. 1-(4-Nitro-naphthalen-1-yl)-1H-imidazo[5,4-c]pyridine was isolated at high Rf and 1-(4-nitro-naphthalen-1-yl)-1H-imidazo[4,5-c]pyridine at lower Rf, and overlapping fractions were in between. The overall yield was 357 mg (47%). Each nitro-naphthalene from above (˜100 mg, 0.4 mmol) was separately dissolved in 10 mL EtOAc and 5 mL of MeOH. Ammonium formate was then added (100 mg, 1.6 mmol or 4 equiv.) and 10% palladium-on-carbon (˜60 mg). The mixture was stirred for 0.5 h at 50° C., then allowed to cool, filtered through diatomaceous earth and the solvents were removed in vacuo to afford ˜80 mg of each naphthyl-amine 5a and 5b, which could be coupled with anilines or pyrazolamines to form ureas by the procedures described in Examples 2-4 above.

reactant | 5-Aza-benzimidazole | 2.62 mmol, 312 mg, 1 equiv. | N1=CNC2=C1C=CN=C2 | C6H5N3
reactant | potassium tert-butoxide | 2.62 mmol, 294 mg, 1.0 equiv. | CC(C)([O-])C.[K+]
reactant | 4-fluoro-1-nitro-naphthalene | 2.62 mmol, 500 mg, 1 equiv. | FC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6FNO2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-(4-nitro-naphthalen-1-yl)-1H-imidazo[4,5-c]pyridine | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)N1C=NC=2C=NC=CC21 | C16H10N4O2
